US05374615
2-[2-(2-Methyl-6-nitrophenyl)ethylidene]-hydrazinecarboxamide
3-Nitro-ortho-xylene (1.77 ml, 13.23 mmol, 1.0 eq.) was combined with dimethylformamide dimethyl acetal (2.11 ml, 15.88 mmol, 1.2 eq.) dimethylformamide (7.35 ml, 1.8M) and pyrrolidine (1.32 ml, 15.88 mmol, 1.2 eq.) and heated at 110° C. for 8 hours. The reaction was then cooled to room temperature and concentrated. The residue was dissolved in dimethylformamide (7.35 ml, 1.8M) and treated at room temperature with a solution of semicarbazide-hydrochloride (1.55 g, 13.89 mmol, 1.05 eq.) in concentrated hydrochloric acid (1.2 ml, 14.55 mmol, 1.1 eq.) and water (16.5 ml, 0.8M). The mixture was stirred at room temperature for 30 minutes, cooled to 0° C. and filtered. The precipitate was washed with water (30 ml), cold ethanol (15 ml) and ethyl ether (25 ml) and then dried in vacuo to provide the title A compound (2.44 g).

reactant | 3-Nitro-ortho-xylene | 13.23 mmol, 1.77 ml, 1.0 eq. | [N+](=O)([O-])C1=C(C(=CC=C1)C)C | C8H9NO2
reactant | dimethylformamide dimethyl acetal | 15.88 mmol, 1.8M, 2.11 ml, 1.2 eq. | COC(N(C)C)OC | C5H13NO2
reactant | pyrrolidine | 15.88 mmol, 1.32 ml, 1.2 eq. | N1CCCC1 | C4H9N
reactant | semicarbazide-hydrochloride | 13.89 mmol, 1.55 g, 1.05 eq. | Cl.NNC(=O)N
reactant | hydrochloric acid | 14.55 mmol, 1.2 ml, 1.1 eq. | Cl | ClH
solvent | water | 0.8M, 16.5 ml | O | H2O
product | 2-[2-(2-Methyl-6-nitrophenyl)ethylidene]-hydrazinecarboxamide | 2.44 g | CC1=C(C(=CC=C1)[N+](=O)[O-])CC=NNC(=O)N | C10H12N4O3
